US04347372
Preparation of α-[Benzthiazol-2-yl]-α-oximino-acetonitrile
A solution of 7.8 g (0.1 mol) of NaNO2 in 20 ml of water is added dropwise at room temperature to 17.4 g (0.1 mol) of 2-cyanomethyl-benzthiazole in 50 ml of glacial acetic acid. The end product is filtered off after 2 hours and washed with water: 19.5 g (96% of theory), melting point >170° (decomposition).

reactant | NaNO2 | 0.1 mol, 7.8 g | N(=O)[O-].[Na+]
reactant | 2-cyanomethyl-benzthiazole | 0.1 mol | C(#N)CC=1SC2=C(N1)C=CC=C2 | C9H6N2S
solvent | water | 20 ml | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | α-[Benzthiazol-2-yl]-α-oximino-acetonitrile | S1C(=NC2=C1C=CC=C2)C(C#N)=NO | C9H5N3OS
